US07220862B2
2-(Di-tert-butoxycarbonylamino)-acrylic acid methyl ester
To a solution of 2-tert-butoxycarbonylamino-3-hydroxy-propionic acid methyl ester (10.0 g, 39 mmol) and di-tert-butyl-dicarbonate (21.8 g, 2.6 equiv.) in acetonitrile (40 mL) was added 4-dimethylaminopyridine (0.48 g, 0.1 equiv) at room temperature. The solution was stirred overnight and concentrated. The residue was dissolved in diethyl ether, washed sequentially with 1 M potassium hydrogen sulfate (2×), saturated sodium bicarbonate, brine, dried over magnesium sulfate, and concentrated to give 15.6 g (quant.) as an oil. Inspection of the 1H NMR showed a mixture of the title compound and 2-(di-tert-butoxycarbonylamino)-3-tert-butoxycarbonyloxy-propionic acid methyl ester. As it was later found that both react with secondary amines to give the same products, the mixture was used without separation. 2-(Di-tert-butoxycarbonylamino)-acrylic acid methyl ester: 1H-NMR (CDCl3) δ 1.45 (s, 18H), 3.78 (s, 3H), 5.63 (s, 1H), 6.33 (s, 1H). Mass spec.: 324.14 (M+Na)+. 2-(Di-tert-butoxycarbonylamino)-3-tert-butoxycarbonyloxy-propionic acid methyl ester: 1H-NMR (CDCl3, 500 MHz) δ 1.46 (s, 9H), 1.49 (s, 18H), 3.72 (s, 3H), 4.42 (dd, J=11.6, 9.2, 1H), 4.75 (dd, J=11.3, 4.6, 1H), 5.30 (dd, J=9.2, 4.6, 1H). Mass spec.: 442.21 (M+Na)+.

reactant | 2-tert-butoxycarbonylamino-3-hydroxy-propionic acid methyl ester | 39 mmol, 10.0 g | COC(C(CO)NC(=O)OC(C)(C)C)=O | C9H17NO5
reactant | di-tert-butyl-dicarbonate | 21.8 g, 2.6 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(di-tert-butoxycarbonylamino)-3-tert-butoxycarbonyloxy-propionic acid methyl ester | COC(C(COC(=O)OC(C)(C)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C19H33NO9
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.48 g, 0.1 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(Di-tert-butoxycarbonylamino)-acrylic acid methyl ester | COC(C(=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C14H23NO6
